US07943619B2
6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for example 69, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester (100 mg, 0.29 mmol) was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (39 mg, 34%) which was obtained as a white foam. MS: m/e=396.4 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester | 0.29 mmol, 100 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C17H16N4O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 39 mg, 34% | O1CCC(CC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C20H21N5O4
